US04206137
cis-2-(3-Methyl-1-oxo-2-butenyl)cyclopentanecarboxylic acid
To a stirred suspension of 4.38 g. (32.86 mmole) of anhydrous aluminum chloride in 100 ml. of 1,2-dichloroethane at room temperature is added 2.30 g. (16.43 mmoles) of cis-1,2-cyclopentanedicarboxylic anhydride. Ethylene is then bubbled through the clear solution with stirring for four hours.

reactant | aluminum chloride | 32.86 mmole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cis-1,2-cyclopentanedicarboxylic anhydride | 16.43 mmoles | [C@@H]12[C@@H](CCC1)C(=O)OC2=O | C7H8O3
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | cis-2-(3-Methyl-1-oxo-2-butenyl)cyclopentanecarboxylic acid | CC(=CC(=O)[C@@H]1[C@@H](CCC1)C(=O)O)C | C11H16O3
